US09126931B2
3-Chloro-8-((R)-2,3-dihydroxy-propoxy)-9-(3-hydroxy-3-methyl-but-1-ynyl)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
The resulting 3-chloro-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-9-(3-hydroxy-3-methyl-but-1-ynyl)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (20 mg, 0.04 mmol) was dissolved in methanol (3 mL), added with 1 N hydrochloric acid (1 ml), and stirred at room temperature for 12 hr. After cooling, the reaction solution was concentrated under reduced pressure, and the resulting residues were washed with methylene chloride to obtain the title compound (pale yellow powder, 5.2 mg).

reactant | 3-chloro-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-9-(3-hydroxy-3-methyl-but-1-ynyl)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.04 mmol, 20 mg | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C(=C4)C#CC(C)(C)O)OC[C@@H]4OC(OC4)(C)C)=O | C29H30ClNO5
reactant | hydrochloric acid | 1 N, 1 ml | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 3-Chloro-8-((R)-2,3-dihydroxy-propoxy)-9-(3-hydroxy-3-methyl-but-1-ynyl)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 5.2 mg | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C(=C4)C#CC(C)(C)O)OC[C@@H](CO)O)=O | C26H26ClNO5
